US05514800
14 Grams (0.052 mol) of N-(diphenylmethyl)piperazine and 6 grams (0.15 mol) of sodium hydroxide were dissolved in 180 ml of a mixture of ethanol :water 60:40. The mixture was heated to reflux, then 2-phenyl-4-(1-chloroethyl)-5-methylimidazole hydrochloride in 180 milliliters of ethanol:water 60:40 were added dropwise. After 4 to 5 hours under reflux, the reaction mixture was allowed to cool to room temperature. The oil that separated was washed twice with water, then dissolved in ether and hydrochloric acid was added. The precipitate was recrystallized from ethanol to give 1-diphenylmethyl-4- 1-(2-phenyl-5-methyl-1H-imidazol-4-yl)ethyl!piperazine trihydrochloride (55% yield), which melted at 215° C.

reactant | N-(diphenylmethyl)piperazine | 0.052 mol | C1(=CC=CC=C1)C(N1CCNCC1)C1=CC=CC=C1 | C17H20N2
reactant | sodium hydroxide | 0.15 mol, 6 grams | [OH-].[Na+]
reactant | 2-phenyl-4-(1-chloroethyl)-5-methylimidazole hydrochloride | Cl.C1(=CC=CC=C1)C=1NC(=C(N1)C(C)Cl)C
solvent | ethanol water | C(C)O.O
solvent | ethanol water | 180 milliliters | C(C)O.O
product | piperazine trihydrochloride | 55% yield | Cl.Cl.Cl.N1CCNCC1 | InChI=1S/C4H10N2.3ClH/c1-2-6-4-3-5-1;;;/h5-6H,1-4H2;3*1H
